US06169107A
The reaction was carried out in a manner similar to Reference Example 18 b) except for using 6.50 g (17.2 mmol) of ethyl 7-benzyloxy-1-methyl-4-trifluoromethyl-2-indolecarboxylate, 1.0 g of 10% palladium/carbon and 150 ml of ethanol. Ethyl 7-hydroxy-1-methyl-4-trifluoromethyl-2-indolecarboxylate was thus obtained in the yield of 4.95 g (97.0%).

reactant | ethyl 7-benzyloxy-1-methyl-4-trifluoromethyl-2-indolecarboxylate | 17.2 mmol, 6.50 g | C(C1=CC=CC=C1)OC=1C=CC(=C2C=C(N(C12)C)C(=O)OCC)C(F)(F)F | C20H18F3NO3
catalyst | palladium/carbon | 1.0 g | [Pd] | Pd
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | Ethyl 7-hydroxy-1-methyl-4-trifluoromethyl-2-indolecarboxylate | OC=1C=CC(=C2C=C(N(C12)C)C(=O)OCC)C(F)(F)F | C13H12F3NO3
